US07851623B2
To a solution of sodium tetraphenylborate (1.90 g) in acetone (8 ml) at 20° C. was added aqueous 4-azoniaspiro[3,4]octane chloride (1.64 ml, prepared as above). The resulting solid was filtered, washed with water (3×10 ml) and dried in a vacuum oven to give 4-azoniaspiro[3,4]octane tetraphenylborate (2.17 g, 90% of theory).

reactant | sodium tetraphenylborate | 1.90 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 4-azoniaspiro[3,4]octane chloride | 1.64 ml | [Cl-].C1CC[N+]12CCCC2
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | 4-azoniaspiro[3,4]octane tetraphenylborate | 2.17 g, 90% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1CC[N+]12CCCC2 | InChI=1S/C24H20B.C7H14N/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-2-5-8(4-1)6-3-7-8/h1-20H;1-7H2/q-1;+1
